US04230707
F. 3,10-Dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylic acid
6-Aminonicotinic acid (10 g., 0.072 mol) [Berichte, 26, 2187, (1893)], methyl 4-oxotetrahydro-thiophene-3-carboxylate (28 g., 0.175 mol) [Monats, Chem., 104, 1520(1973)] and p-toluenesulfonic acid monohydrate (1.0 g) are thoroughly mixed and heated at 170° C. under nitrogen for 75 minutes. The distillate is collected in a Dean-Stark trap. The residue is cooled, tritrated with boiling chloroform and filtered to give the product as a yellow powder (11.3 g.). Recrystallization from dimethylformamide gives an analytical sample mp 314°-315° C. (dec).

reactant | 6-Aminonicotinic acid | 0.072 mol, 10 g | NC1=NC=C(C(=O)O)C=C1 | C6H6N2O2
reactant | methyl 4-oxotetrahydro-thiophene-3-carboxylate | 0.175 mol, 28 g | O=C1C(CSC1)C(=O)OC | C6H8O3S
reactant | p-toluenesulfonic acid monohydrate | 1.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 3,10-Dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylic acid | 11.3 g | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)O)CSC2 | C11H8N2O3S
